US08536187B2
4-Aminomethyl-N-tert-butyl-2-chloro-benzenesulfonamide was synthesized in a manner analogous to 4-Aminomethyl-N-tert-butyl-3-methyl-benzenesulfonamide in Example 4, using 4-bromo-2-chlorobenzene-1-sulfonyl chloride in place of 4-bromo-3-methylbenzene-1-sulfonyl chloride. In the second step NMP was used as the solvent, Pd(dppf)Cl2 alone was used as catalyst and the reaction mixture was stirred at 150° C. for 30 min, then heated at 120° C. overnight. Reduction of the cyano group to aminomethyl group in the last step was achieved by stirring with lithium aluminium hydride from 0° C. to room temperature in THF.

reactant | 4-Aminomethyl-N-tert-butyl-3-methyl-benzenesulfonamide | NCC1=C(C=C(C=C1)S(=O)(=O)NC(C)(C)C)C | C12H20N2O2S
reactant | 4-bromo-2-chlorobenzene-1-sulfonyl chloride | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)Cl | C6H3BrCl2O2S
reactant | NMP | CN1CCCC1=O | C5H9NO
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-Aminomethyl-N-tert-butyl-2-chloro-benzenesulfonamide | NCC1=CC(=C(C=C1)S(=O)(=O)NC(C)(C)C)Cl | C11H17ClN2O2S
